US05385692
1.00 g (3.03 mM) of 2-fluoro-4-(5-decylpyrimidine-2-yl)phenol, 3 ml of pyridine were mixed and stirred on a common salt-ice bath. To the mixture, 1.00 ml (5.94 mM) of anhydrous trifluoromethanesulfonic acid was added dropwise and stirred for 20 minutes, followed by further stirring for 70 minutes at room temperature. After the reaction, the reaction mixture was left standing overnight and then was poured into ice water, followed by extraction with isopropyl ether. The isopropyl ether layer was successively washed with a common salt aqueous solution, 12%-HCl and a common salt aqueous solution, followed by drying with anhydrous sodium sulfate. The sodium sulfate was removed by filtration and the filtrate was concentrated into a solid product, whereby 1.32 g of 2-fluoro-4-(5-decylpyrimidine-2-yl)phenyl triflate (Yield: 94.3%).

reactant | 2-fluoro-4-(5-decylpyrimidine-2-yl)phenol | 3.03 mM, 1.00 g | FC1=C(C=CC(=C1)C1=NC=C(C=N1)CCCCCCCCCC)O | C20H27FN2O
reactant | trifluoromethanesulfonic acid | 5.94 mM, 1.00 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 2-fluoro-4-(5-decylpyrimidine-2-yl)phenyl triflate | 1.32 g, Yield: 94.3% | O(S(=O)(=O)C(F)(F)F)C1=C(C=C(C=C1)C1=NC=C(C=N1)CCCCCCCCCC)F | C21H26F4N2O3S
